US08084448B2
A. 2-Trimethylsilanylethyl (3-benzyloxy-4-nitrophenoxy)acetate
A mixture of 2-trimethylsilylethyl bromoacetate (J. Org. Chem. 51, 1537 (1986) (13.72 g, 56.0 mmol), 3-benzyloxy-4-nitrophenol (EP application 095121) (13.38 g, 55.9 mmol), and potassium carbonate (15.46 g, 112 mmol) in DMF (40 mL) is stirred at RT for 18 h. The mixture is poured into EtOAc and extracted once with water and five times with brine. The organic layer is dried, filtered, and concentrated to afford the title compound as a pale brown liquid: 1H NMR (CDCl3)δ 7.93 (d, J=9.1 Hz, 1H), 7.42 (d, J=7.1 Hz, 2H), 7.34 (t, J=7.1 Hz, 2H), 7.28 (t, J=7.1 Hz, 1H), 6.60 (d, J=2.5 Hz, 1H), 6.41 (dd, J=9.1, 2.5 Hz, 1H), 5.15 (s, 2H), 4.57 (s, 2H), 4.25 (m, 2H), 0.97 (m, 2H), 0.00 (s, 9H).

reactant | 2-trimethylsilylethyl bromoacetate | BrCC(=O)OCC[Si](C)(C)C | C7H15BrO2Si
reactant | 3-benzyloxy-4-nitrophenol | 55.9 mmol, 13.38 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])O | C13H11NO4
reactant | potassium carbonate | 112 mmol, 15.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 2-Trimethylsilanylethyl (3-benzyloxy-4-nitrophenoxy)acetate | C(C1=CC=CC=C1)OC=1C=C(OCC(=O)OCC[Si](C)(C)C)C=CC1[N+](=O)[O-] | C20H25NO6Si
